US08709747B2
Air was removed from a solution of 2,7-diethynyl-9,9-dibutyl-9H-fluorene and 5-iodo-3,4-ethylenedioxythiophene-2-carboxaldehyde (Jessing, M.; Brandt, M.; Jensen, K. J.; Christensen, J. B.; Boas, U. J. Org. Chem. 2006, 71, 6734) (2.3 equiv) in toluene/Et3N (4/1) by blowing argon for 20 min. Then CuI (2×4 mol %) and Pd(PPh3)2Cl2 (2×4 mol %) were added, and deaeration was continued for 10 min. Thereafter the mixture was stirred at 40° C. for 16 h. The solvent was removed under reduced pressure, and the crude product was purified by column chromatography on silica gel (heptane/CH2Cl2 50:50 then 40:60) to yield 5,5′-(9,9-dibutyl-9H-fluorene-2,7-diyldi-2,1-ethynediyl)bis(3,4-ethylenedioxy-2-thiophenecarboxaldehyde).

reactant | 2,7-diethynyl-9,9-dibutyl-9H-fluorene | C(#C)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C#C)(CCCC)CCCC | C25H26
reactant | 5-iodo-3,4-ethylenedioxythiophene-2-carboxaldehyde | 2.3 equiv | IC1=C2C(=C(S1)C=O)OCCO2 | C7H5IO3S
solvent | toluene Et3N | C1(=CC=CC=C1)C.CCN(CC)CC
catalyst | CuI | [Cu]I
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5,5′-(9,9-dibutyl-9H-fluorene-2,7-diyldi-2,1-ethynediyl)bis(3,4-ethylenedioxy-2-thiophenecarboxaldehyde) | C(CCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC1=C2C(=C(S1)C=O)OCCO2)C#CC2=C1C(=C(S2)C=O)OCCO1)CCCC | C39H34O6S2
